* 4-Bit R-2R Ladder DAC
* Technology: 180nm CMOS
* Resolution: 4 bits (16 levels)
* Output range: 0V to Vref
* Architecture: Current-steering R-2R ladder

* Include technology library
.include ../technology/cmos_180nm.lib

* Power and reference voltages
VDD vdd 0 DC 1.8V
Vref vref 0 DC 1.6V

* Digital control bits (MSB to LSB: b3, b2, b1, b0)
* Test with digital code 1010 (binary) = 10 (decimal) = 10/16 * Vref = 1.0V
Vb3 b3 0 PULSE(0 1.8 0 1n 1n 500n 1u)   ; MSB
Vb2 b2 0 DC 0V
Vb1 b1 0 PULSE(0 1.8 0 1n 1n 500n 1u)
Vb0 b0 0 DC 0V                           ; LSB

* ============================================================
* R-2R LADDER NETWORK
* ============================================================

* Reference resistor to Vref
Rref vref n3 10k

* R-2R ladder structure
* MSB branch (bit 3)
R3a n3 n2 10k
R3b sw3 0 20k

* Bit 2 branch
R2a n2 n1 10k
R2b sw2 0 20k

* Bit 1 branch  
R1a n1 n0 10k
R1b sw1 0 20k

* LSB branch (bit 0)
R0a n0 vout_raw 10k
R0b sw0 0 20k

* ============================================================
* CMOS SWITCHES (Transmission Gates)
* ============================================================

* Each bit controls a CMOS transmission gate
* When bit = 1: switch connects to ladder node
* When bit = 0: switch connects to ground

* Bit 3 switch (MSB)
.subckt tg_switch in out ctrl vdd vss
Mn out ctrl in vss nmos_1v8 W=2u L=0.18u
* Inverter for complementary control
Minv ctrl_b ctrl vss vss nmos_1v8 W=1u L=0.18u
Mpinv ctrl_b ctrl vdd vdd pmos_1v8 W=2u L=0.18u
Mp out ctrl_b in vdd pmos_1v8 W=4u L=0.18u
.ends

* Instantiate switches for each bit
Xtg3 n3 sw3 b3 vdd 0 tg_switch
Xtg2 n2 sw2 b2 vdd 0 tg_switch
Xtg1 n1 sw1 b1 vdd 0 tg_switch
Xtg0 n0 sw0 b0 vdd 0 tg_switch

* ============================================================
* OUTPUT BUFFER (Unity-gain voltage follower)
* ============================================================

* Simple source follower buffer to drive external load
* Input stage (differential pair)
M_buf1 d_buf vout_raw vss vss nmos_1v8 W=5u L=0.5u
M_buf2 d_buf vout d_buf vss nmos_1v8 W=5u L=0.5u
Ibuf d_buf vss DC 100u

* Load (PMOS current mirror)
M_buf3 vout vout vdd vdd pmos_1v8 W=10u L=0.5u

* External load
Rload vout 0 100k
Cload vout 0 10p

* ============================================================
* ALTERNATIVE: Simple Resistive Divider DAC
* (Commented out - can be used for comparison)
* ============================================================

* This section shows a simpler resistor-string DAC
* Uncomment to compare with R-2R ladder

*.subckt res_dac_4bit b3 b2 b1 b0 vref vout
*  * 16 resistors in series from Vref to ground
*  Rd0  vref  tap15 1k
*  Rd1  tap15 tap14 1k
*  Rd2  tap14 tap13 1k
*  Rd3  tap13 tap12 1k
*  Rd4  tap12 tap11 1k
*  Rd5  tap11 tap10 1k
*  Rd6  tap10 tap9  1k
*  Rd7  tap9  tap8  1k
*  Rd8  tap8  tap7  1k
*  Rd9  tap7  tap6  1k
*  Rd10 tap6  tap5  1k
*  Rd11 tap5  tap4  1k
*  Rd12 tap4  tap3  1k
*  Rd13 tap3  tap2  1k
*  Rd14 tap2  tap1  1k
*  Rd15 tap1  0     1k
*  
*  * 16:1 multiplexer (using switches)
*  * Decoder logic would select appropriate tap
*.ends

* ============================================================
* MEASUREMENTS
* ============================================================

* Measure DAC output for different codes
* Measure settling time
* Measure INL and DNL (Integral/Differential Non-Linearity)

* ============================================================
* SIMULATION COMMANDS
* ============================================================

* DC operating point
.OP

* Transient analysis - verify code transitions
.TRAN 1n 5u UIC

* DC sweep of one bit to check linearity
*.DC Vb3 0 1.8 0.1

* Parameter sweep - test all 16 codes
*.STEP param code 0 15 1
*.param bit3 = int(code/8)
*.param bit2 = int((code-bit3*8)/4)
*.param bit1 = int((code-bit3*8-bit2*4)/2)
*.param bit0 = mod(code,2)

* Save important signals
.SAVE V(b3) V(b2) V(b1) V(b0) V(vout) V(vout_raw) V(vref)
.SAVE V(n3) V(n2) V(n1) V(n0)

.PRINT TRAN V(b3) V(b2) V(b1) V(b0) V(vout)

.END
