* 4-Bit Successive Approximation Register (SAR) ADC
* Complete CMOS Implementation
* Technology: 180nm CMOS
* Resolution: 4 bits
* Sample rate: 100kSPS
* Architecture: SAR with R-2R DAC, Comparator, and S/H

* Include technology library
.include ../technology/cmos_180nm.lib

* ============================================================
* POWER SUPPLIES
* ============================================================
VDD vdd 0 DC 1.8V
AVDD avdd 0 DC 1.8V
DVDD dvdd 0 DC 1.8V
* Reference voltage (defines full-scale range)
Vref vref 0 DC 1.6V

* ============================================================
* INPUT SIGNAL (Analog input to be digitized)
* ============================================================
* Test signal: Slow ramp from 0.2V to 1.4V over 160us
* This will cover entire ADC range and show all digital codes
Vin_analog vin_analog 0 PWL(
+ 0 0.2V 
+ 160u 1.4V
+ 200u 1.4V
+ )

* ============================================================
* CLOCK GENERATION
* ============================================================
* Master clock: 500kHz (2us period)
* Each conversion takes 10 clocks (sample + 4 bits + 5 clocks overhead)
Vclk_master clk_master 0 PULSE(0 1.8 0 1n 1n 1u 2u)

* Sample clock: Goes high for 2us every 10us (sampling phase)
Vclk_sample clk_sample 0 PULSE(0 1.8 0 1n 1n 2u 10u)

* Conversion start pulse: Rising edge triggers SAR logic
Vclk_convert clk_convert 0 PULSE(0 1.8 2u 1n 1n 100n 10u)

* ============================================================
* SAMPLE-AND-HOLD CIRCUIT
* ============================================================

* Input buffer (unity-gain voltage follower)
Evin_buf vin_buf 0 vin_analog 0 1.0
Rbuf1 vin_buf vin_buf2 100
Cbuf1 vin_buf2 0 100f

* Sampling switch (tracks during clk_sample high, holds when low)
.model sw_sample VSWITCH (RON=100 ROFF=100G VT=0.9V VH=0.1V)
Ssample vin_buf2 sh_node clk_sample 0 sw_sample

* Hold capacitor (stores sampled voltage)
Chold sh_node 0 5p

* Output buffer for S/H (prevents loading)
Esh_out sh_out 0 sh_node 0 1.0
Rsh_out sh_out sh_out_buf 100
Csh_out sh_out_buf 0 100f

* ============================================================
* SAR CONTROL LOGIC (Simplified digital control)
* ============================================================

* SAR state machine using digital sources
* In real design, this would be synthesized digital logic

* Bit 3 (MSB) - tried first
Vbit3_ctrl bit3_try 0 PULSE(0 1.8 2.5u 1n 1n 2u 10u)

* Bit 2 - tried second  
Vbit2_ctrl bit2_try 0 PULSE(0 1.8 4.5u 1n 1n 2u 10u)

* Bit 1 - tried third
Vbit1_ctrl bit1_try 0 PULSE(0 1.8 6.5u 1n 1n 2u 10u)

* Bit 0 (LSB) - tried last
Vbit0_ctrl bit0_try 0 PULSE(0 1.8 8.5u 1n 1n 2u 10u)

* ============================================================
* 4-BIT R-2R DAC
* ============================================================

* Current steering R-2R ladder with CMOS switches
* Converts digital code to analog voltage for comparison

* R-2R ladder resistors
Rref_dac vref n_dac3 10k
R3a n_dac3 n_dac2 10k
R2a n_dac2 n_dac1 10k
R1a n_dac1 n_dac0 10k
R0a n_dac0 dac_out_raw 10k

* 2R resistors to switch nodes
R3b sw_dac3 0 20k
R2b sw_dac2 0 20k
R1b sw_dac1 0 20k
R0b sw_dac0 0 20k

* CMOS switches controlled by digital bits
* Bit high: connects to ladder, Bit low: connects to ground
.model sw_dac VSWITCH (RON=500 ROFF=10G VT=0.9V VH=0.1V)
Ssw_dac3 n_dac3 sw_dac3 dac_b3 0 sw_dac
Ssw_dac2 n_dac2 sw_dac2 dac_b2 0 sw_dac
Ssw_dac1 n_dac1 sw_dac1 dac_b1 0 sw_dac
Ssw_dac0 n_dac0 sw_dac0 dac_b0 0 sw_dac

* DAC output buffer
Edac_buf dac_out 0 dac_out_raw 0 1.0
Rdac_buf dac_out dac_out2 100
Cdac_buf dac_out2 0 200f

* ============================================================
* COMPARATOR
* ============================================================

* High-gain differential comparator
* Compares S/H output with DAC output

* Input differential pair
M_cmp1 d_cmp1 sh_out_buf tail_cmp 0 nmos_1v8 W=5u L=0.5u
M_cmp2 d_cmp2 dac_out2 tail_cmp 0 nmos_1v8 W=5u L=0.5u

* Tail current (bias for differential pair)
Itail_cmp tail_cmp 0 DC 100u

* Active load (current mirror)
M_cmp3 d_cmp1 d_cmp1 avdd avdd pmos_1v8 W=10u L=0.5u
M_cmp4 d_cmp2 d_cmp1 avdd avdd pmos_1v8 W=10u L=0.5u

* Second gain stage
M_cmp5 d_cmp3 d_cmp2 0 0 nmos_1v8 W=15u L=0.35u
M_cmp6 d_cmp3 d_cmp3 avdd avdd pmos_1v8 W=25u L=0.35u

* Output stage (rail-to-rail buffer)
M_cmp7 comp_out_analog d_cmp3 0 0 nmos_1v8 W=20u L=0.18u
M_cmp8 comp_out_analog d_cmp3 avdd avdd pmos_1v8 W=30u L=0.18u

* Digital threshold buffer (converts to logic level)
Ecomp_dig comp_out 0 comp_out_analog 0 10
Vcomp_th_hi comp_out_clip dvdd comp_out 0 MAX
Vcomp_th_lo comp_out_logic 0 comp_out_clip 0 MAX
Rcomp_logic comp_out_logic comp_out_logic2 100
Ccomp_logic comp_out_logic2 0 50f

* ============================================================
* SAR REGISTER LOGIC
* ============================================================

* Simplified SAR control - stores comparison results
* Real implementation would use flip-flops and state machine

* SR Latches for each bit (set by bit_try, reset by comparison)
* Bit 3 (MSB)
Esr3_s latch3_s 0 VALUE={IF(V(bit3_try)>0.9 & V(clk_master)>0.9, 1.8, 0)}
Esr3_r latch3_r 0 VALUE={IF(V(comp_out_logic2)<0.9 & V(bit3_try)>0.9, 1.8, 0)}
Esr3_q dac_b3_pre 0 VALUE={IF(V(latch3_s)>0.9, 1.8, IF(V(latch3_r)>0.9, 0, V(dac_b3_pre)))}
Rdac_b3 dac_b3_pre dac_b3 10
Cdac_b3 dac_b3 0 50f

* Bit 2
Esr2_s latch2_s 0 VALUE={IF(V(bit2_try)>0.9 & V(clk_master)>0.9, 1.8, 0)}
Esr2_r latch2_r 0 VALUE={IF(V(comp_out_logic2)<0.9 & V(bit2_try)>0.9, 1.8, 0)}
Esr2_q dac_b2_pre 0 VALUE={IF(V(latch2_s)>0.9, 1.8, IF(V(latch2_r)>0.9, 0, V(dac_b2_pre)))}
Rdac_b2 dac_b2_pre dac_b2 10
Cdac_b2 dac_b2 0 50f

* Bit 1
Esr1_s latch1_s 0 VALUE={IF(V(bit1_try)>0.9 & V(clk_master)>0.9, 1.8, 0)}
Esr1_r latch1_r 0 VALUE={IF(V(comp_out_logic2)<0.9 & V(bit1_try)>0.9, 1.8, 0)}
Esr1_q dac_b1_pre 0 VALUE={IF(V(latch1_s)>0.9, 1.8, IF(V(latch1_r)>0.9, 0, V(dac_b1_pre)))}
Rdac_b1 dac_b1_pre dac_b1 10
Cdac_b1 dac_b1 0 50f

* Bit 0 (LSB)
Esr0_s latch0_s 0 VALUE={IF(V(bit0_try)>0.9 & V(clk_master)>0.9, 1.8, 0)}
Esr0_r latch0_r 0 VALUE={IF(V(comp_out_logic2)<0.9 & V(bit0_try)>0.9, 1.8, 0)}
Esr0_q dac_b0_pre 0 VALUE={IF(V(latch0_s)>0.9, 1.8, IF(V(latch0_r)>0.9, 0, V(dac_b0_pre)))}
Rdac_b0 dac_b0_pre dac_b0 10
Cdac_b0 dac_b0 0 50f

* ============================================================
* OUTPUT DIGITAL CODE
* ============================================================

* Convert binary outputs to decimal value for plotting
Eout_decimal dout_decimal 0 VALUE={
+ (V(dac_b3)>0.9)*8 + (V(dac_b2)>0.9)*4 + (V(dac_b1)>0.9)*2 + (V(dac_b0)>0.9)*1
+ }

* Create ideal ADC output for comparison
Eout_ideal dout_ideal 0 VALUE={INT(V(vin_analog)/V(vref)*16)}

* ============================================================
* MEASUREMENTS
* ============================================================

* Measure DNL (Differential Non-Linearity)
* Measure INL (Integral Non-Linearity)
* Measure SNR and ENOB (Effective Number of Bits)
* Measure conversion time

.measure tran conversion_time 
+ TRIG V(clk_sample) VAL=0.9 FALL=1 
+ TARG V(dac_b0) VAL=0.9 CROSS=1

* Measure final output code at end of conversion
.measure tran final_code FIND V(dout_decimal) AT=9.5u

* ============================================================
* SIMULATION COMMANDS
* ============================================================

* DC operating point
.OP

* Transient analysis - simulate 20 complete conversions
.TRAN 10n 200u UIC

* Save all important signals
.SAVE V(vin_analog) V(sh_out_buf) V(dac_out2) V(comp_out_analog)
.SAVE V(dac_b3) V(dac_b2) V(dac_b1) V(dac_b0)
.SAVE V(clk_sample) V(clk_master)
.SAVE V(dout_decimal) V(dout_ideal)
.SAVE V(d_cmp1) V(d_cmp2) V(d_cmp3)

.PRINT TRAN V(vin_analog) V(dout_decimal) V(clk_sample)

* ============================================================
* CHARACTERIZATION
* ============================================================

* Sweep input voltage to characterize transfer function
*.DC Vin_analog 0 1.6 0.01

* Monte Carlo analysis for offset and gain error
*.MC 100 TRAN 10n 10u

* Corner analysis (TT, FF, SS, FS, SF)
*.LIB '../technology/corners_180nm.lib' TT

.END
